US07361677B2
4-Benzyloxy-3-chloro-5-methoxy-benzoic acid benzyl ester (CAB02162)
A mixture of 5-chloro-vanillic acid (4.05 g, 20 mmol), benzyl bromide (8.55 g, 50 mmol) and potassium carbonate (6.90 g, 50 mmol) in DMF (60 mL) was stirred at room temperature for 18 hours. The mixture was transferred into a separation funnel and ethyl acetate (100 mL) and water (100 mL) were added, the organic layer was separated, washed with water (2×50 mL) and brine (50 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was crystallised from dichloromethane/hexane. Yield: 7.34 g (96%) colourless needles. 1H-NMR (400 MHz, CDCl3) δ=3.92 (s, 3H, —OCH3), 5.13 (s, 2H), 5.36 (s, 2H), 7.31-7.51 (m, 10H), 7.53 (d, J=2.0 Hz, 1H), 7.73 (d, J=2.0 Hz, 1H). LRMS (FAB+): 91.0 (100), 382.1 (15, [M+H]+).

reactant | 5-chloro-vanillic acid | 20 mmol, 4.05 g | ClC=1C(=C(C=C(C(=O)O)C1)OC)O | C8H7ClO4
reactant | benzyl bromide | 50 mmol, 8.55 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 50 mmol, 6.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 4-Benzyloxy-3-chloro-5-methoxy-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=C(C(=C1)OC)OCC1=CC=CC=C1)Cl)=O | C22H19ClO4
